US06372770B1
2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chloro-7-(2-hydroxyethyl)Benzoxazole
Sodium borohydride 0.05 g, 0.0013 mol) was added to a stirred solution of 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-ethanal (1.0 g, 0.0025 mol) in 10 ml ethanol. Stirring was continued for 1 hour. Water (15 ml) was added and the reaction mixture was extracted with 2×50 ml ethyl acetate. The ethyl acetate layer was washed once with water (50 ml), dried and evaporated to give 1.1 g of pale yellow crystals. A small sample of this solid was recrystallized from a blend of ether-hexane to give the title compound as a white solid, mp 74-76° C.

reactant | Sodium borohydride | 0.0013 mol, 0.05 g | [BH4-].[Na+]
reactant | 2-(3-cyclopentyloxy-4-methoxybenzyl)-5-chlorobenzoxazole-7-ethanal | 0.0025 mol, 1.0 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CC=O)Cl)C=CC1OC | C22H22ClNO4
reactant | Water | 15 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(3-Cyclopentyloxy-4-methoxybenzyl)-5-chloro-7-(2-hydroxyethyl)Benzoxazole | 1.1 g | C1(CCCC1)OC=1C=C(CC=2OC3=C(N2)C=C(C=C3CCO)Cl)C=CC1OC | C22H24ClNO4
